US04767743
D1. 2-methylheptanoic acid
To a cold (0° C.) solution of 100 ml. of dry tetrahydrofuran containing 11.8 ml. of dry diisopropylamine and 55 ml. of 1.6M n-butyl lithium was added 5.4 ml. of n-heptanoic acid and the mixture allow to stir at room temperature for one hour. The resulting solution was cooled to 0° C. and 7.2 ml. of methyl iodide was added. The reaction was stirred at room temperature under nitrogen for 1.5 hours, and was then poured into 10% hydrochloric acid and extracted with diethyl ether (3×100 ml.). The extracts were combined, washed with 10% hydrochloric acid, water, 20% sodium bisulfite and a brine solution and dried over magnesium sulfate. The solvent was removed in vacuo and the residue, 5.61 g., dissolved in methanol containing 5.1 g. of potassium hydroxide. After stirring overnight the mehtanol was removed and the residue dissolved in 150 ml. of water. The aqueous layer was washed with ether (2×100 ml.) and acidified with 10% hydrochloric acid. The product was extracted with ether, washed with a 20% sodium bisulfite solution and brine and dried over magnesium sulfate. Removal of the ether gave 5.0 g. of the product as a yellow liquid.

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | n-heptanoic acid | C(CCCCCC)(=O)O | C7H14O2
reactant | methyl iodide | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 11.8 ml | O1CCCC1 | C4H8O
product | 2-methylheptanoic acid | CC(C(=O)O)CCCCC | C8H16O2
